US05173489
To a solution of 1,1-Bis(4-pyridinylmethyl)-3-phenyl-1H-indene (1.0 g, 2.7 mmol) in dry pyridine (10 ml) was added osmium tetroxide (1.0 g, 3.9 mmol, dissolved in ether). The mixture was stirred at room temperature and monitored by TLC. After completion of the reaction, sodium bisulfite (2.0 g), water (20 ml), and pyridine (5 ml) was added. The mixture was stirred for 1 h, and extracted three times with chloroform: isopropanol (4:1). The combined extracts were washed with brine, dried over magnesium sulfate, and evaporated to give 3,3-bis(4-pyridinylmethyl)-2,3-dihydro-1-phenyl-1H-indene-1,2-diol as a yellow solid, 1.15 g.

reactant | 1,1-Bis(4-pyridinylmethyl)-3-phenyl-1H-indene | 2.7 mmol, 1.0 g | N1=CC=C(C=C1)CC1(C=C(C2=CC=CC=C12)C1=CC=CC=C1)CC1=CC=NC=C1 | C27H22N2
reactant | sodium bisulfite | 2.0 g | S([O-])(O)=O.[Na+]
reactant | water | 20 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | osmium tetroxide | 3.9 mmol, 1.0 g | [Os](=O)(=O)(=O)=O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3,3-bis(4-pyridinylmethyl)-2,3-dihydro-1-phenyl-1H-indene-1,2-diol | N1=CC=C(C=C1)CC1(C(C(C2=CC=CC=C12)(O)C1=CC=CC=C1)O)CC1=CC=NC=C1 | C27H24N2O2
